US07229990B2
(f). tert-Butyl 5-amino-2-methylthio-4-(3-methoxyphenyl)-quinazoline-6-carboxamide
To a 1.8 M solution of 5-amino-2-methylthio-4-(3-methoxyphenyl)-quinazoline-6-carboxylic acid in DMF (1.8 ml) were added TBTU (173 mg) and tert-butylamine (95 l). The reaction mixture was stirred for 2 h and then poured into a mixture of EtOAc (25 ml) and saturated aqueous NaHCO3 (50 ml). The organic phase was separated and washed with 0.5 M aqueous HCl (50 ml) and brine (50 ml), followed by drying (MgSO4) and concentration under reduced pressure. The title compound was purified by chromatography on silica gel using hept/EtOAc=1/0 to 2/3 (v/v) as the eluent. The title compound was lyophilized from a mixture of dioxane and water containing 1.5 equiv. of HCl.

reactant | 5-amino-2-methylthio-4-(3-methoxyphenyl)-quinazoline-6-carboxylic acid | NC1=C2C(=NC(=NC2=CC=C1C(=O)O)SC)C1=CC(=CC=C1)OC | C17H15N3O3S
reactant | TBTU | 173 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butylamine | 95 l | C(C)(C)(C)N | C4H11N
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
reactant | water | 1.5 equiv. | O | H2O
reactant | HCl | Cl | ClH
solvent | DMF | 1.8 ml | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | tert-Butyl 5-amino-2-methylthio-4-(3-methoxyphenyl)-quinazoline-6-carboxamide | C(C)(C)(C)C1=C(C(=C2C(=NC(=NC2=C1)SC)C1=CC(=CC=C1)OC)N)C(=O)N | C21H24N4O2S
